US06897224B2
5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-quinoline-2-carboxylic acid amide
A solution that consists of 290 mg (1.55 mmol) of 5-aminoquinoline-2-carboxylic acid amide, 616 mg (2.0 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal and 3.80 ml of concentrated acetic acid in 30 ml of toluene is refluxed for 20 hours in a water separator. Then, the solvent is removed in a vacuum. After the residue is purified on silica gel with hexane/ethyl acetate (0-70%), 438 mg (59% of theory) of the product is obtained.

reactant | 5-aminoquinoline-2-carboxylic acid amide | 1.55 mmol, 290 mg | NC1=C2C=CC(=NC2=CC=C1)C(=O)N | C10H9N3O
reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | 2.0 mmol, 616 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | acetic acid | 3.80 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylidenamino]-quinoline-2-carboxylic acid amide | FC=1C=CC(=C(C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)OC | C24H23F4N3O3
